US09102625B2
To a solution of tert-butyl 4-(3-nitrophenyl)piperazine-1-carboxylate in EtOH (20 mL) and THF (10 mL) was added Pd/C (500 mg), the mixture was charged with H2 (1 atm) and stirred for 16 h. Pd/C was filtered off, the filtrate was concentrated to give tert-butyl 4-(3-aminophenyl)piperazine-1-carboxylate (1.71 g).

reactant | tert-butyl 4-(3-nitrophenyl)piperazine-1-carboxylate | [N+](=O)([O-])C=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
solvent | EtOH | 20 mL | CCO | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | tert-butyl 4-(3-aminophenyl)piperazine-1-carboxylate | 1.71 g | NC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H23N3O2
